US06528525B1
(b) Ethyl 2-butyl-3-(4-hydroxyphenyl)-2-methylpropionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 2-(4-benzyloxybenzyl)-2-methylcaproate (3.95 g), which is the product of Reference example 10(a), and palladium on carbon (5%, 0.40 g) and the reaction mixture was treated to afford the desired compound (2.95 g) as a syrup.

reactant | ethyl 2-(4-benzyloxybenzyl)-2-methylcaproate | 3.95 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(CCCC)C)C=C1 | C23H30O3
catalyst | palladium on carbon | 0.40 g | [Pd] | Pd
product | Ethyl 2-butyl-3-(4-hydroxyphenyl)-2-methylpropionate | 2.95 g | C(CCC)C(C(=O)OCC)(CC1=CC=C(C=C1)O)C | C16H24O3
